US07667039B2
1-(2-Chloro-4-nitro-phenyl)-3,5-cis-dimethyl-piperazine
1.0 g (5.21 mmol) of 3,4-dichloronitrobenzene (Fluka, Buchs, Switzerland), 624 mg (5.47 mmol) cis-2,6-dimethylpiperazine (Aldrich, Buchs, Switzerland) and 580 mg (5.73 mmol) triethylamine in 20 ml of EtOH are heated in a microwave oven at 170° C. for 6 h and 180° C. for 2 h. The reaction mixture is evaporated to dryness and then taken in EtOAc. The organic layers is extracted with 1 M aqueous HCl(5×) and the combined aqueous layers are basified with NaHCO3 and extracted with CH2Cl2 (3×), washed with brine, dried over MgSO4, filtered and evaporated to dryness to give the title compound as a yellow solid. ES-MS: 270 (M+H)+; analytical HPLC: tret=2.72 minutes (Grad 1).

reactant | 3,4-dichloronitrobenzene | 5.21 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | cis-2,6-dimethylpiperazine | 5.47 mmol, 624 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | triethylamine | 5.73 mmol, 580 mg | C(C)N(CC)CC | C6H15N
solvent | EtOH | 20 ml | CCO | C2H6O
product | 1-(2-Chloro-4-nitro-phenyl)-3,5-cis-dimethyl-piperazine | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1C[C@H](N[C@H](C1)C)C | C12H16ClN3O2
